US09062076B2
Piperidine (0.50 mL, 5.1 mmol) was added to a suspension of 4-hydroxy-3-methoxybenzaldehyde (0.77 g, 5.1 mmol) and 2-[(carboxyacetyl)amino]benzoic acid (1.0 g, 4.5 mmol) in toluene (5.0 mL). The reaction flask was fitted with a Dean-Stark apparatus and heated to reflux for 3 h, then cooled to rt and the resulting suspension was filtered and washed with toluene. The piperidinium salt was dissolved in MeOH (12.0 mL) and water (12.0 mL) at 40° C. and the solution was acidified with concentrated HCl. The precipitate was filtered, providing (E)-2-[[3-(4-hydroxy-3-methoxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid (1.1 g, 78%) as a yellow crystalline solid; mp 207.5-208.5° C., lit.5 230-233° C.; δH (500 MHz, DMSO-d6) 3.83 (s, 3H, OCH3), 6.71 (d, J=15.5 Hz, 1H, CH═CHCO), 6.80 (d, J5′,6=8.5 Hz, 1H, H5′), 7.13 (dd, J5,6=8.5, J2′,6′=1.5 Hz, 1H, H6′), 7.15 (t, J3,4=J4,5=8.0 Hz, 1H, H4), 7.34 (d, J2′,6′=1.5 Hz, 1H, H2′), 7.52 (d, J=15.5 Hz, 1H, CH═CHCO), 7.60 (td, J4,5=J5,6=8.0, J3,5=2.0 Hz, 1H, H5), 8.00 (dd, J3,4=8.0, J3,5=2.0 Hz, 1H, H3), 8.62 (d, J5,6=8.0 Hz, 1H, H6), 9.57 (s, 1H, OH), 11.27 (s, 1H, NH), 13.61 (br s, 1H, CO2H).

reactant | Piperidine | 5.1 mmol, 0.50 mL | N1CCCCC1 | C5H11N
reactant | 4-hydroxy-3-methoxybenzaldehyde | 5.1 mmol, 0.77 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | 2-[(carboxyacetyl)amino]benzoic acid | 4.5 mmol, 1.0 g | C(=O)(O)CC(=O)NC1=C(C(=O)O)C=CC=C1 | C10H9NO5
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[[3-(4-hydroxy-3-methoxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid | 1.1 g, 78% | OC1=C(C=C(C=C1)/C=C/C(=O)NC1=C(C(=O)O)C=CC=C1)OC | C17H15NO5
